US09315521B2
2-{[(1-cyclohexyl-1H-imidazol-5-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol (300 mg, 986 μmol) was stirred in methanol (30 mL), and a solution of 4 N HCl in dioxane (370 μL, 1.5 mmol) was added dropwise at 0° C. The mixture was stirred for 30 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(1-cyclohexyl-1H-imidazol-5-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol hydrochloride (330 mg, 98% yield); 1H NMR (500 MHz, DMSO-d6): δ 1.15-2.05 (m, 10H), 2.22 (s, 3H). 4.28-4.36 (m, 1H), 4.58 (s, 2H), 6.14 (s, 1H), 7.64 (s, 1H), 9.32 (s, 1H); LRMS (ES+) m/z 305 (100%, M+1).

reactant | 2-{[(1-cyclohexyl-1H-imidazol-5-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol | 986 μmol, 300 mg | C1(CCCCC1)N1C=NC=C1CSC1=NC(=CC(=N1)O)C | C15H20N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 1.5 mmol, 370 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | 2-{[(1-cyclohexyl-1H-imidazol-5-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol hydrochloride | 330 mg, 98% yield | Cl.C1(CCCCC1)N1C=NC=C1CSC1=NC(=CC(=N1)O)C | InChI=1S/C15H20N4OS.ClH/c1-11-7-14(20)18-15(17-11)21-9-13-8-16-10-19(13)12-5-3-2-4-6-12;/h7-8,10,12H,2-6,9H2,1H3,(H,17,18,20);1H
